US06887889B2
A solution of 4-aminomethyl-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.26 g, 0.625 mmol) in THF (0.5 mL) was cooled to 0° C. Pyridine (0.055 mL, 0.69 mmol, 1.1 eq.) and trifluoroacetic anhydride (0.10 mL, 0.69 mmol, 1.1 eq.) were added and the reaction mixture was stirred at room temperature for 16 h. The solvent was removed by rotary evaporation and the resulting residue was dissolved in EtOAc (10 mL) and washed with saturated brine (3×10 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated by rotary evaporation to give 4-(4-iodo-phenyl)-4-[(2,2,2-trifluoro-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (0.298 g, 93%). 1H NMR (CDCl3): δ 7.87 (d, 2H), 7.17 (d, 2H), 5.94 (m, 2H), 3.84 (m, 2H), 3.59 (m, 2H), 3.23 (m, 2H), 2.20 (m, 2H), 1.88 (m, 2H), 1.56 (s, 9H).

reactant | 4-aminomethyl-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.625 mmol, 0.26 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)CN | C17H25IN2O2
reactant | Pyridine | 0.69 mmol, 0.055 mL, 1.1 eq. | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.69 mmol, 0.10 mL, 1.1 eq. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-(4-iodo-phenyl)-4-[(2,2,2-trifluoro-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.298 g, 93% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC(C(F)(F)F)=O)C1=CC=C(C=C1)I | C19H24F3IN2O3
